2138-09-13 09:40:00 Physician Attending Progress Note
Chief Complaint: pulm renal syndrome with DAH, hypoxic resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  [**Age over 90 **] yo F, new GN (p-anca pos, ? hydralazine induced vasculitis)
   transferred for hypoxic resp failure in setting of DAH.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2138-9-12**] 10:25 AM--transient hypotension
   during HD
 BRONCHOSCOPY - At [**2138-9-12**] 03:34 PM--diffuse blood from airways
 MULTI LUMEN - START [**2138-9-12**] 09:39 PM placed overnight
   Difficulty placing a-line
   cyclophosphamide initiated this am (2am)
   transfused 2 units prbcs, 2 ffp peri-central line placement
   intermittent bradycardia 40's this am--ecg with pacs and pauses
   History obtained from ho
   Allergies:
   Sulfonamides
   Rash;
   Macrodantin (Oral) (Nitrofurantoin Macrocrystal)
   Rash;
   Codeine
   Abdominal pain;
   Norvasc (Oral) (Amlodipine Besylate)
   edema;
   Hydralazine
   drug induced va
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2138-9-12**] 11:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-13**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.5
C (95.9
   HR: 67 (57 - 95) bpm
   BP: 163/76(97) {95/43(57) - 181/112(118)} mmHg
   RR: 14 (11 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.8 kg (admission): 92 kg
           Total In:
                                                                  1,196 mL
                                                                    631 mL
   PO:
           TF:
   IVF:
                                                                    345 mL
                                                                    355 mL
   Blood products:
                                                                    851 mL
                                                                    276 mL
   Total out:
                                                                    381 mL
                                                                    108 mL
   Urine:
                                                                    381 mL
                                                                     93 mL
   NG:
   15 mL
   Stool:
   Drains:
   Balance:
                                                                    815 mL
                                                                    523 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.54/37/74/31/8
   Ve: 7.2 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : intermittent,
   Rhonchorous: ), diminished at bases
   Abdominal: Soft, Bowel sounds present, Distended, diminshed BS
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  warm,, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Unresponsive,
   Labs / Radiology
   9.3 g/dL
   98 K/uL
   145 mg/dL
   3.0 mg/dL
   31 mEq/L
   3.2 mEq/L
   34 mg/dL
   95 mEq/L
   136 mEq/L
   26.7 %
   13.6 K/uL
        [image002.jpg]
                             [**2138-9-12**]  11:07 AM
                             [**2138-9-12**]  12:41 PM
                             [**2138-9-12**]  12:48 PM
                             [**2138-9-12**]  06:23 PM
                             [**2138-9-13**]  12:11 AM
                             [**2138-9-13**]  04:33 AM
                             [**2138-9-13**]  07:28 AM
   WBC
   16.2
   13.6
   Hct
   24.3
   26.0
   22.3
   26.7
   Plt
   134
   112
   94
   98
   Cr
   3.0
   TCO2
   30
   30
   33
   Glucose
   145
   Other labs: PT / PTT / INR:13.0/35.0/1.1, D-dimer:1608 ng/mL,
   Fibrinogen:264 mg/dL, Lactic Acid:1.3 mmol/L, LDH:252 IU/L, Ca++:8.1
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: bal 2+ pmns, no org
   ldh 262
   hapto pending
   fdp 0-10
   Imaging: cxr--diffuse b/l asd, et and lij in position
   Microbiology: bronc, blood, urine pending
   Assessment and Plan
   [**Age over 90 **] yo F, new GN (p-anca pos, ? hydralazine induced vasculitis)
   transferred for hypoxic resp failure in setting of DAH.
   ISSUES INCLUDE:
          Respiratory failure
          Pulmonary renal syndrome (DAH, p-anca + GN possibly [**2-17**]
   hydralazine-induced vasculitis)
          ARF
          Leukocytosis
          GIB, anemia
          Coagulopathy
          Thrombocytopenia
          bradycardia
   # RESPIRATORY FAILURE
 DAH in context of pulmonary-renal
   syndrome/p-anca vasculitis (Wegener's granulomatosis vs. microscopic
   polyangiitis).  Further confounded by uremic platelets and
   thrombocytopenia.  Less likely pulmonary infection, but pna is
   difficult to assess in setting of diffuse b/l infiltrates.  S/p bronch
   with BAL  to r/o infection. F/u cx data.  DFA for PCP pending but less
   likely PCP as patient on steroids for <2 weeks and received pentamidine
   within past week.  Will hold on antibiotics at this time, unless
   obvious signs of infection/clinical decline. Continue vent support with
   ards net TVs, adjust mv to optimize pH.  Continue steroids and
   cytoxan.  Rheum and renal input appreciated.
   # ACUTE RENAL FAILURE/p-anca + vasculitis-- Probable microscopic
   polyangiitis.  Possibly [**2-17**] hydralazine-induced vs wegeners. Continue
   HD. Continue solumedrol and cyclophosphamide, holding on further
   plasmaphoresis at this time.  Monitor peripheral cell counts.
   #Leukocytosis
in setting of steroids.  No obvious infectious etiology.
   Follow pending micro, epiric broad antibx in setting of clinical
   decline.
   # GIB with heme pos stool. Possible gastritis. NG lavage neg.  ? be
   swallowed hemoptysis.  Monitor for evidence for GI bleeding and
   continue ppi.
   # COAGULOPATHY
elevated PTT (lower on repeat check) with positive
   inhibitor screen.  [**Month (only) 11**] represent inactivation of clotting factor or
   evolving DIC given thrombocytopenia and elevated bili.
   Immunosupression as above, follow dic panel.
   # THROMBOCYTOPENIA -- declined by 50% since admission, off all heparin
   products.  HIT antibody pending.
   # Bradycardia--unclear etiology, ? exaggerated vagal tone. No obvious
   meds to contribute
though ? cyclophosphamide related given temporal
   relation.  Improves when sedation is decreased. Atropine at bedside.
   Given occasional hypetension, CNS process in dddx. Follow neuro exam
   consider head ct if persists.
   ICU Care
   Nutrition:
   Comments: start Tfs
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-12**] 10:25 AM
   20 Gauge - [**2138-9-12**] 02:59 PM
   Multi Lumen - [**2138-9-12**] 09:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2138-09-14 10:19:00 Physician Attending Progress Note
Chief Complaint: renal pulm syndrome, resp failure and arf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo F, new GN (p-anca pos, ? hydralazine induced vasculitis)
   transferred for hypoxic resp failure in setting of DAH.
   24 Hour Events:
   TV changed to ARDS net for [**Doctor Last Name 2**]/ARDS
   HD yesterday--> 2L off
   decreasing peep and FiO2 requirements
transitioned to PS this am
   History obtained from Medical records, ho
   Allergies:
   Sulfonamides
   Rash;
   Macrodantin (Oral) (Nitrofurantoin Macrocrystal)
   Rash;
   Codeine
   Abdominal pain;
   Norvasc (Oral) (Amlodipine Besylate)
   edema;
   Hydralazine
   drug induced va
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-14**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 73 (56 - 74) bpm
   BP: 132/48(70) {97/42(58) - 175/71(92)} mmHg
   RR: 22 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.8 kg (admission): 92 kg
   Height: 60 Inch
             Total In:
                                                                  1,042 mL
                                                                    391 mL
   PO:
             TF:
             99 mL
   IVF:
                                                                    766 mL
                                                                    182 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                    164 mL
                                                                     27 mL
   Urine:
                                                                    149 mL
                                                                     27 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                    878 mL
                                                                    364 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 480) mL
   Vt (Spontaneous): 390 (38 - 390) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 17 cmH2O
   Plateau: 0 cmH2O
   SpO2: 98%
   ABG: 7.46/41/95.[**Numeric Identifier **]/27/4
   Ve: 9.8 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  warm, no rash
   Neurologic: Responds to: verbal stimuli, following commands
   Labs / Radiology
   9.2 g/dL
   114 K/uL
   131 mg/dL
   2.5 mg/dL
   27 mEq/L
   4.4 mEq/L
   29 mg/dL
   103 mEq/L
   141 mEq/L
   27.2 %
   16.7 K/uL
        [image002.jpg]
                             [**2138-9-12**]  12:48 PM
                             [**2138-9-12**]  06:23 PM
                             [**2138-9-13**]  12:11 AM
                             [**2138-9-13**]  04:33 AM
                             [**2138-9-13**]  07:28 AM
                             [**2138-9-13**]  01:54 PM
                             [**2138-9-13**]  02:16 PM
                             [**2138-9-13**]  08:41 PM
                             [**2138-9-13**]  08:59 PM
                             [**2138-9-14**]  03:20 AM
   WBC
   16.2
   13.6
   16.7
   Hct
   24.3
   26.0
   22.3
   26.7
   28.0
   26.8
   27.2
   Plt
   134
   112
   94
   98
   114
   Cr
   3.0
   2.2
   2.5
   TCO2
   33
   31
   31
   30
   Glucose
   145
   107
   131
   Other labs: PT / PTT / INR:11.9/33.1/1.0, D-dimer:1608 ng/mL,
   Fibrinogen:264 mg/dL, Lactic Acid:1.0 mmol/L, LDH:247 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Imaging: improving aeration b/l, still with patchy inf and small
   effusions b/l
   Microbiology: dfa pcp [**Name Initial (PRE) **] (BAL)
   cxs pending
   gs neg
   sputum neg
   blood ngtd [**9-12**]
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 COAGULOPATHY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   [**Age over 90 **] yo F, new GN (p-anca pos, ? hydralazine induced vasculitis)
   transferred for hypoxic resp failure in setting of DAH.
   ISSUES INCLUDE:
          Respiratory failure
          Pulmonary renal syndrome (DAH, p-anca + GN possibly [**2-17**]
   hydralazine-induced vasculitis)
          ARF
          Leukocytosis
          GIB
   anemia
          Coagulopathy
          Thrombocytopenia (improving)
          bradycardia (resolved)
   # RESPIRATORY FAILURE
 DAH in context of pulmonary-renal
   syndrome/p-anca vasculitis (Wegener's granulomatosis vs. microscopic
   polyangiitis vs hydral-induced vasculitis).  Further confounded by
   uremic platelets and thrombocytopenia.  Less likely pulmonary
   infection, but pna is difficult to assess in setting of diffuse b/l
   infiltrates.  S/p bronch with BAL  to r/o infection. F/u cx data.
   Continue steroids and cytoxan.  Rheum and renal input appreciated.  D/w
   blood bank regarding plasmaphoresis..
   DFA for PCP pending but less likely PCP as patient on steroids for <2
   weeks and received pentamidine within past week.
   ABGs and imaging show improvement with fluid removal and treament of
   underlying vasculitis, now on PS wean
   -- Will hold on antibiotics at this time, unless obvious signs of
   infection/clinical decline.
   -- Continue vent support
on PS/peep will check abg and consider moving
   to SBT and possible extubation likely today or tomorrow
   # ACUTE RENAL FAILURE/p-anca + vasculitis-- Probable microscopic
   polyangiitis.  Possibly [**2-17**] hydralazine-induced vs wegeners. Continue
   HD. Continue solumedrol and cyclophosphamide, and d/w blood bank
   regarding role for further  plasmaphoresis. Monitor peripheral cell
   counts.
   #Leukocytosis
in setting of steroids.  No obvious infectious etiology.
   Follow pending micro, empiric broad antibx in setting of clinical
   decline.
   # GIB with heme pos stool. Possible gastritis. NG lavage neg.  ? be
   swallowed hemoptysis.  Monitor for evidence for GI bleeding and
   continue ppi.
   # COAGULOPATHY
elevated PTT (lower on repeat check) with positive
   inhibitor screen.  [**Month (only) 11**] represent inactivation of clotting factor or
   evolving DIC given thrombocytopenia and elevated bili.
   Immunosupression as above.  Without evidence of DIC
   # THROMBOCYTOPENIA -- declined by 50% since admission
now improving,
   off all heparin products.  HIT antibody pending.
   # Bradycardia--unclear etiology, ? exaggerated vagal tone. No obvious
   meds to contribute
though ? cyclophosphamide related given temporal
   relation , ? related to propfol. Improves when sedation is decreased.
   Atropine at bedside.  Given occasional hypetension, CNS process in
   dddx. Follow neuro exam consider head ct if persists.
   #HTN
consider resuming home antihtn regimen if remains of sedation
   (propofol)
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2138-9-14**] 02:38 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-12**] 10:25 AM
   20 Gauge - [**2138-9-12**] 02:59 PM
   Multi Lumen - [**2138-9-12**] 09:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill, update family and continue to address goals
   of care

2138-09-15 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - now on CPAP/PS 8/5 with FiO2 0.4, with ABG 7.50/36/82/29; may do SBT
   and see how she does- likely extubate tomorrow
   - per renal, another round of plasma pheresis tomorrow afternoon and
   dialysis tomorrow AM
   - if hypertensive once off propofol, may need antihypertensive (takes
   BB at home)
   - hct goal>25
   - PPD negative (placed upstairs for outpatient HD)
   - pt desatted this morning, FiO2 was incr to 0.06
   - pt coughed up blood clots this AM
   - pt is getting dialysis this AM, will get plasmapheresis at 4:30 pm
   - renal rec: needs dialysis, RIJ line needs to be replaced (inserted
   [**9-3**])
   Allergies:
   Sulfonamides
   Rash;
   Macrodantin (Oral) (Nitrofurantoin Macrocrystal)
   Rash;
   Codeine
   Abdominal pain;
   Norvasc (Oral) (Amlodipine Besylate)
   edema;
   Hydralazine
   drug induced va
   Last dose of Antibiotics:
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-15**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 61 (61 - 91) bpm
   BP: 158/51(79) {132/43(70) - 200/80(124)} mmHg
   RR: 22 (17 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 92 kg
   Height: 60 Inch
             Total In:
                                                                    911 mL
                                                                     99 mL
   PO:
             TF:
                                                                    352 mL
   IVF:
                                                                    349 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                    102 mL
                                                                     30 mL
   Urine:
                                                                     77 mL
                                                                     30 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    809 mL
                                                                     69 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 360 (360 - 390) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 78
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.48/36/64/27/3
   Ve: 8.4 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General:  comfortable on ventilator, follows simple commands, arousable
   to voice
   HEENT:  Sclera anicteric, no site of active bleeding
   Neck:  Supple
   Lungs:  Clear anteriorly; posterior not evaluated
   CV:  RRR, no m/r/g
   Abdomen:  s/nt/nd, +BS
   Ext:  Warm, well-perfused; 2+ radial and DP pulses; 1+ foot edema;
   pneumoboots in place
   Per NSG: old blood suctioned from ETT, no residual from OGT
   Labs / Radiology
   126 K/uL
   8.7 g/dL
   145 mg/dL
   3.9 mg/dL
   27 mEq/L
   4.7 mEq/L
   64 mg/dL
   104 mEq/L
   142 mEq/L
   26.0 %
   16.0 K/uL
        [image002.jpg]
                             [**2138-9-13**]  01:54 PM
                             [**2138-9-13**]  02:16 PM
                             [**2138-9-13**]  08:41 PM
                             [**2138-9-13**]  08:59 PM
                             [**2138-9-14**]  03:20 AM
                             [**2138-9-14**]  10:29 AM
                             [**2138-9-14**]  10:48 AM
                             [**2138-9-14**]  07:40 PM
                             [**2138-9-15**]  04:01 AM
                             [**2138-9-15**]  05:28 AM
   WBC
   16.7
   15.7
   16.2
   16.0
   Hct
   28.0
   26.8
   27.2
   28.5
   26.7
   26.0
   Plt
   114
   118
   139
   126
   Cr
   2.2
   2.5
   3.9
   TCO2
   31
   31
   30
   29
   28
   Glucose
   107
   131
   145
   Other labs: PT / PTT / INR:11.9/33.1/1.0, D-dimer:1608 ng/mL,
   Fibrinogen:264 mg/dL, Lactic Acid:1.0 mmol/L, LDH:247 IU/L, Ca++:8.4
   mg/dL, Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Pending antiplatelet antibody
   Blood cx pending
   MRSA pending
   .
   CXR ([**2138-9-15**]): (my read) worsening bilateral pleural effusions
   Assessment and Plan
   [**Age over 90 **] year-old female with hypertension, admitted with glomerulonephritis,
   now with acute hypoxic respiratory failure in context of diffuse
   alveolar hemorrhage, thought to be hydralazine p-ANCA induced
   vasculitis.
   #. Acute hypoxic respiratory failure: Pt changed to AC ARDS NET
   protocol due to b/l infiltrates on CXR and P/F ratio of 208. Pt on
   spectrum of [**Doctor Last Name 2**] to ARDS, much improved today. Tried on PSV 8/5 this AM
   and did well. Initially required urgent intubation on transfer
   secondary to fatigue and airway protection (given hemoptysis).
   Bronchoscopy showed DAH, which correlates with the alveolar pattern
   seen on CXR.  Included in the differential is vasculitis - Wegener's
   granulomatosis vs. microscopic polyangiitis given pANCA positivity.
   Pneumonia is possible given prolonged hospital course,
   immunosuppression with steroid therapy, and leukocytosis. Given
   bilateral patchy opacities on high-dose steroids (on prednisone 40+mg
   PO daily since [**2138-8-30**]) and acutely increased O2 requirement, concern
   for PCP as well. No hemodynamic compromise to suggest pulmonary
   embolism, although patient has been bedbound for prolonged period.
   -Check ABG on PSV
 if ok, will wean PSV to [**5-20**]. Perhaps will do SBT
   today if pt tolerates PSV well with possible extubation today or
   tomorrow pending her clinical status and oxygenation.
   - continue salumedrol 40mg IV Q8 hours and cytoxan per Rheum recs
   - Given high-dose steroids, PPI IV, PCP [**Name Initial (PRE) 3261**] (inhaled
   pentamidine given [**2138-9-6**]), close glucose monitoring
   - monitor hematocrit [**Hospital1 **]
   - F/U Rheumatology recs
   - F/U Renal recs
   .
   #. Hemoptysis:  likely due to DAH seen on bronchoscopy or beinf off
   clotting factors. Given history of gastritis, GI bleed also possible.
   OG lavage without output now. Decreasing amounts of old blood and no
   new blood from ETT lavages. Hct stable.
   - check hematocrit [**Hospital1 **]
   - PPI IV given known gastritis, high-dose steroids
   - Goal hct>25 for concern for active bleeding
   - transfuse plasma
   .
   #. Glomerulonephritis:  Suspected hydralazine-induced pANCA vasculitis.
   Patient with renal biopsy on [**2138-9-1**] which showed 'marked chronic
   vascular disease' and suprisingly no evidence of vasculitis, although
   pANCA level markedly elevated. Dialysis yesterday for fluid overload
   per Renal.
   - Steroid therapy and cytoxan, as above
   -Possible plasmapheresis
 will f/u with blood bank
   - f/u renal recs and t/b re: next plan for dialysis.
   - Avoiding nephrotoxic agents
   .
   #. Coagulopathy:  INR elevated on admission but 1.0 today with PTT
   33.1. Unlikely to be nutritional given albumin 4.1. Elevated PTT
   suspected secondary to sample being drawn from heparin-dependent
   pheresis line, although still elevated to >150 on peripheral stick. Of
   note, inhibitor screen positive [**2138-8-26**]; unclear which Factor is being
   inhibited by review of OMR. DIC labs nl. Heparin products stopped and
   platelets now rising, concerning for HITT.
   - Check coags daily, add on DIC labs only if abnormal
   -f/u HITT antibody
   .
   #. Leukocytosis:  Expected leukocytosis given high-dose steroids,
   stable. No clear evidence of infection - without productive cough,
   abdominal pain, diarrhea, dysuria. Patient did present with
   uncomplicated UTI and was treated 3-day course of ciprofloxacin.
   - f/u Sputum, blood, and urine cultures
   - f/u BAL results
   - Hold off on antibiotics, low threshold to treat for VAP or HAP if she
   decompensates as ARDS may mask infiltrate on CXR
   .
   #. Lower GI bleed:  First and only episode of bleeding on [**2138-9-9**].
   Suspected to be diverticular vs. ischemic colitis given vasculitis.
   .
   #. Hypertension:  BP labile.  Intracranial bleed unlikely as pt is
   responsive and head CT deferred. Decrease of propofol resulted some
   improvement of heart rate with increase as pt was previously
   bradycardic.
   - wean propofol as tolerated
   -if BP elevated off propofol (SBP>160), will restart home labetalol
   .
   #. Anemia: Hct stable requiring no transfusions yesterday. Several
   likely contributors, gastritis, DAH.  DIC labs unremarkable.
   - transfuse for hematocrit >25
   - [**Hospital1 **] Hct
   .
   # Goals for care
 Daughter would like mother to be healthy enough to
   be extubated and go home. She understand mother is elderly. Yesterday,
   situation was more critical but pt is much improved on exam today.
   -Attempt to extubate today or tomorrow
   -Will t/b with family re: goals of care and pt
s improvement
   -Will defer palliative care c/s at this time.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2138-9-14**] 02:38 AM 10 mL/hour; TFs held this
   AM for possible extubation
   Glycemic Control:  ISS given high dose steroids
   Lines:
   Dialysis Catheter - [**2138-9-12**] 10:25 AM
   20 Gauge - [**2138-9-12**] 02:59 PM
   Multi Lumen - [**2138-9-12**] 09:39 PM L IJ
   Prophylaxis:
   DVT: Pneumoboots
 avoiding heparin products at this time
   Stress ulcer: PPI IV
   VAP:  bundle
   Comments:
   Communication:  [**Doctor First Name 747**] (daughter, HCP), ([**Telephone/Fax (1) 7905**]
   Code status:  FULL CODE
   Disposition:  ICU for now

2138-09-15 09:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo F w/ acute hypoxemic resp failure in setting of renal pulm
   syndrome with ARF/GN and DAH
   24 Hour Events:
   Undergoing HD this am
   plan for PH today
   Desatted on vent--> FIO2 increased 60% (from 40)
   History obtained from ho
   Allergies:
   Sulfonamides
   Rash;
   Macrodantin (Oral) (Nitrofurantoin Macrocrystal)
   Rash;
   Codeine
   Abdominal pain;
   Norvasc (Oral) (Amlodipine Besylate)
   edema;
   Hydralazine
   drug induced va
   Last dose of Antibiotics:
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-15**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 61 (61 - 91) bpm
   BP: 165/51(81) {141/43(73) - 200/80(124)} mmHg
   RR: 20 (17 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 92 kg
   Height: 60 Inch
             Total In:
                                                                    911 mL
                                                                    182 mL
   PO:
             TF:
                                                                    352 mL
   IVF:
                                                                    349 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                    102 mL
                                                                     40 mL
   Urine:
                                                                     77 mL
                                                                     40 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    809 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (360 - 380) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 78
   PIP: 13 cmH2O
   SpO2: 99%
   ABG: 7.48/36/64/27/3
   Ve: 8.4 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   126 K/uL
   145 mg/dL
   3.9 mg/dL
   27 mEq/L
   4.7 mEq/L
   64 mg/dL
   104 mEq/L
   142 mEq/L
   26.0 %
   16.0 K/uL
        [image002.jpg]
                             [**2138-9-13**]  01:54 PM
                             [**2138-9-13**]  02:16 PM
                             [**2138-9-13**]  08:41 PM
                             [**2138-9-13**]  08:59 PM
                             [**2138-9-14**]  03:20 AM
                             [**2138-9-14**]  10:29 AM
                             [**2138-9-14**]  10:48 AM
                             [**2138-9-14**]  07:40 PM
                             [**2138-9-15**]  04:01 AM
                             [**2138-9-15**]  05:28 AM
   WBC
   16.7
   15.7
   16.2
   16.0
   Hct
   28.0
   26.8
   27.2
   28.5
   26.7
   26.0
   Plt
   114
   118
   139
   126
   Cr
   2.2
   2.5
   3.9
   TCO2
   31
   31
   30
   29
   28
   Glucose
   107
   131
   145
   Other labs: PT / PTT / INR:11.9/33.1/1.0, D-dimer:1608 ng/mL,
   Fibrinogen:264 mg/dL, Lactic Acid:1.0 mmol/L, LDH:247 IU/L, Ca++:8.4
   mg/dL, Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Imaging: cxr--slight increase in effusions and asd b/l
   Microbiology: [**9-12**] bl neg
   Sputum rare staph
   Bronch wash neg
   Urine ngtd
   Assessment and Plan
   [**Age over 90 **] yo F w/ acute hypoxemic resp failure in setting of renal pulm
   syndrome with ARF/GN and DAH
    ISSUES INCLUDE:
          Respiratory failure, acute, hypoxemic
          Pulmonary renal syndrome (DAH, ARF with p-anca + GN possibly
   [**2-17**] hydralazine-induced vasculitis)
          Leukocytosis
          GIB
              Anemia
          Coagulopathy
          Thrombocytopenia (improving)
          Bradycardia (improved)
   # RESPIRATORY FAILURE
 DAH in context of pulmonary-renal
   syndrome/p-anca vasculitis (Wegener's granulomatosis vs. microscopic
   polyangiitis vs hydral-induced vasculitis).  Further confounded by
   uremic platelets and thrombocytopenia.  Less likely pulmonary
   infection, but pna is difficult to assess in setting of diffuse b/l
   infiltrates.  S/p bronch with BAL  to r/o infection.
   --- F/u cx data.
   ---Continue PCP [**Name Initial (PRE) 3261**] (pentamidine)
   ---Hold on antibiotics at this time, unless obvious signs of
   infection/clinical decline.
   ---Continue steroids and cytoxan.  Rheum and renal input appreciated.
   Transfusion service input appreciated
will continue with
   plasmaphoresis.
   ---ABGs and imaging improving with fluid removal (HD) and treatment of
   underlying vasculitis, now on PS wean
   ---Confortable w/ continue with PS.  Now requiring increased Fio2 from
   prior.  Will reevaluate after phoresis/HD for SBT possible extubation
   though with recurrent bleeding from ET as major barrier to extugbation
   at this time.  Continue to reasses..
   # ACUTE RENAL FAILURE/p-anca + vasculitis-- Probable microscopic
   polyangiitis.  Possibly [**2-17**] hydralazine-induced vs wegeners.
   --Continue HD.
   --Continue solumedrol and cyclophosphamide, and  plasmaphoresis.
   # Leukocytosis
in setting of steroids.  No obvious infectious etiology.
   --Follow pending micro, empiric broad antibx in setting of clinical
   decline as above.
   # GIB with heme pos stool. Possible gastritis. NG lavage neg.  ? [**2-17**]
   swallowed hemoptysis.
   --Monitor for evidence for GI bleeding and continue ppi.  Maintain HCt
   > 25.
   # COAGULOPATHY
elevated PTT (lower on repeat check) with positive
   inhibitor screen.  [**Month (only) 11**] represent inactivation of clotting factor or
   evolving DIC given thrombocytopenia and elevated bili.
   --Immunosupression as above.
   --Without evidence of DIC
   # THROMBOCYTOPENIA -- declined by 50% since admission, now improving,
   --Remains off heparin products.
   --HIT antibody pending.  Need to clarify that this was sent.
   #HTN
consider resuming home antihtn regimen if remains of sedation
   (propofol) if elevated > 160.
   # GOALS OF CARE
continue to address goals of care and update family.
   Will talk with consulkting services further regarding prognosis.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-12**] 10:25 AM
   Multi Lumen - [**2138-9-12**] 09:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-09-16 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -underwent plasmapharesis on [**9-15**] with 9 bags of FFP
   -Rheum recs: increased cyclophosphamide (be wary of hemorrhagic
   cystitis and leukopenia)
   -restarted tube feeds, plan to hold at midnight in case of extubation
   -PF4 antibody ordered
   -Pressure support down to 5/5 but had to increase FiO2 to 0.6 due to
   PaO2 of 59.  RSBI: 76
   Allergies:
   Sulfonamides
   Rash;
   Macrodantin (Oral) (Nitrofurantoin Macrocrystal)
   Rash;
   Codeine
   Abdominal pain;
   Norvasc (Oral) (Amlodipine Besylate)
   edema;
   Hydralazine
   drug induced va
   Last dose of Antibiotics:
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-9-15**] 04:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-16**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 74 (58 - 85) bpm
   BP: 149/60(80) {122/38(62) - 180/60(87)} mmHg
   RR: 21 (19 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 92 kg
   Height: 60 Inch
             Total In:
                                                                    643 mL
                                                                    100 mL
   PO:
             TF:
                                                                    154 mL
   IVF:
                                                                    380 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                     16 mL
   Urine:
                                                                     90 mL
                                                                     16 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,157 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 349 (311 - 349) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 76
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.54/41/59/34/10
   Ve: 6.8 L/min
   PaO2 / FiO2: 98
   Physical Examination
   General:  comfortable on ventilator, follows simple commands, arousable
   to voice
   HEENT:  Sclera anicteric, no site of active bleeding
   Neck:  Supple
   Lungs:  Clear anteriorly; posterior not evaluated
   CV:  RRR, no m/r/g
   Abdomen:  s/nt/nd, +BS
   Ext:  Warm, well-perfused; 2+ radial and DP pulses; 1+ foot edema;
   pneumoboots in place
   Per NSG: old blood suctioned from ETT, no residual from OGT
   Labs / Radiology
   111 K/uL
   8.8 g/dL
   141 mg/dL
   2.8 mg/dL
   34 mEq/L
   4.3 mEq/L
   44 mg/dL
   101 mEq/L
   144 mEq/L
   26.5 %
   14.3 K/uL
        [image002.jpg]
                             [**2138-9-14**]  10:29 AM
                             [**2138-9-14**]  10:48 AM
                             [**2138-9-14**]  07:40 PM
                             [**2138-9-15**]  04:01 AM
                             [**2138-9-15**]  05:28 AM
                             [**2138-9-15**]  12:22 PM
                             [**2138-9-15**]  03:29 PM
                             [**2138-9-15**]  04:04 PM
                             [**2138-9-15**]  10:05 PM
                             [**2138-9-16**]  04:26 AM
   WBC
   15.7
   16.2
   16.0
   14.2
   14.3
   Hct
   28.5
   26.7
   26.0
   27.1
   26.5
   Plt
   118
   139
   126
   126
   111
   Cr
   3.9
   2.8
   TCO2
   29
   28
   34
   33
   36
   Glucose
   145
   141
   Other labs: PT / PTT / INR:13.3/31.9/1.1,
   Albumin:3.2 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
MICRO: [**2138-9-12**] 12:22 pm SPUTUM      Source: Endotracheal.
                            **FINAL REPORT [**2138-9-15**]**
   GRAM STAIN (Final [**2138-9-12**]):
      <10 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Final [**2138-9-15**]):
      OROPHARYNGEAL FLORA ABSENT.
      STAPH AUREUS COAG +.    RARE GROWTH.
         Staphylococcus species may develop resistance during prolonged
         therapy with quinolones.   Therefore, isolates that are initially
         susceptible may become resistant within three to four days after
         initiation of therapy.  Testing of repeat isolates may be
         warranted.
      YEAST.    RARE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPH AUREUS COAG +
                             |
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------<=0.25 S
TRIMETHOPRIM/SULFA---- <=0.5 S
Blood culture from [**9-12**]: NGT
CXR ([**9-16**]): my read: essentially unchaged from yesterday
   Assessment and Plan
   [**Age over 90 **] year-old female with hypertension, admitted with glomerulonephritis,
   now with acute hypoxic respiratory failure in context of diffuse
   alveolar hemorrhage, thought to be hydralazine p-ANCA induced
   vasculitis.
   #. Acute hypoxic respiratory failure: Most likely due to DAH secondary
   to hydralazine induced p anca vasculitis.  Differential includes
   Wegener's granulomatosis vs. microscopic polyangiitis given pANCA
   positivity. Pneumonia (including PCP) is possible given prolonged
   hospital course, immunosuppression with steroid therapy, and
   leukocytosis. Initially required urgent intubation on transfer
   secondary to fatigue and airway protection (given hemoptysis).  Pt
   changed to AC ARDS NET protocol due to b/l infiltrates on CXR and P/F
   ratio of 208. Pt on spectrum of [**Doctor Last Name 2**] to ARDS, much improved today.
   Patient currently on CPAP/PSV 8/5 doing well. No hemodynamic compromise
   to suggest pulmonary embolism, although patient has been bedbound for
   prolonged period.
   - wean FiO2 to 50%, check ABG.
   - if ABG ok, then will try SBT today. If not able to wean today, will
   attempt tomorrow pending her clinical status and oxygenation.
   - continue salumedrol 40mg IV Q8 hours and cytoxan per Rheum recs
   - Given high-dose steroids, PPI IV, PCP [**Name Initial (PRE) 3261**] (inhaled
   pentamidine given [**2138-9-6**]), close glucose monitoring
   - monitor hematocrit daily
   - F/U Rheumatology recs
   - F/U Renal recs
   .
   #. Hemoptysis:  likely due to DAH seen on bronchoscopy or dialyzing off
   clotting factors. Given history of gastritis, GI bleed also possible.
   Decreasing amounts of old blood and no new blood from ETT lavages. Hct
   stable.
   - check hematocrit [**Hospital1 **]
   - PPI IV given known gastritis, high-dose steroids
   - Goal hct>25 for concern for active bleeding
   - transfuse plasma
   .
   #. Glomerulonephritis:  Suspected hydralazine-induced pANCA vasculitis.
   Patient with renal biopsy on [**2138-9-1**] which showed 'marked chronic
   vascular disease' and suprisingly no evidence of vasculitis, although
   pANCA level markedly elevated. Dialysis today for fluid overload per
   Renal.
   - Steroid therapy and cytoxan, as above
   - continue plasmapheresis
 2 more sessions
   - continue dialysis
   - get tunneled line today by IR
   - f/u renal recs
   - Avoiding nephrotoxic agents
   .
   # Positive HIT antibody: Given positive HIT, pt has risk of thrombosis,
   especially given her systemic inflammation in the setting of
   vasculitis.
   -  consider argatroban
   .
   # Metabolic alkalosis: question if dialysate containes more bicarb than
   usual.
   - touch base with renal
   - continue to monitor acid-base status
   .
   #. Coagulopathy:  resolved. INR elevated on admission. Unlikely to be
   nutritional given albumin 4.1. Elevated PTT suspected secondary to
   sample being drawn from heparin-dependent pheresis line, although still
   elevated to >150 on peripheral stick. Of note, inhibitor screen
   positive [**2138-8-26**]; unclear which Factor is being inhibited by review of
   OMR. DIC labs nl. Heparin products stopped and platelets now rising,
   concerning for HITT.
   - Check coags daily, add on DIC labs only if abnormal
   - f/u HIT antibody
   -d/c antiplatelet antibody
   .
   #. Leukocytosis:  Expected leukocytosis given high-dose steroids,
   stable. No clear evidence of infection - without productive cough,
   abdominal pain, diarrhea, dysuria. Patient did present with
   uncomplicated UTI and was treated 3-day course of ciprofloxacin.
   - f/u Sputum, blood, and urine cultures
   - f/u BAL results
   - Hold off on antibiotics, low threshold to treat for VAP or HAP if she
   decompensates as ARDS may mask infiltrate on CXR
   .
   #. Lower GI bleed:  First and only episode of bleeding on [**2138-9-9**]. Most
   likely in the setting of swallowing coughed-up blood. Suspected to be
   diverticular vs. ischemic colitis given vasculitis.
   .
   #. Hypertension:  BP labile.  Intracranial bleed unlikely as pt is
   responsive and head CT deferred. Decrease of propofol resulted some
   improvement of heart rate with increase as pt was previously
   bradycardic.
   - wean propofol as tolerated
   -if BP elevated off propofol (SBP>160), will restart home labetalol
   .
   #. Anemia: Hct stable requiring no transfusions for the past few days.
   Several likely contributors, gastritis, DAH.  DIC labs unremarkable.
   - transfuse if hematocrit <25
   - daily CBC
   .
   # Goals for care
 Daughter would like mother to be healthy enough to
   be extubated and go home. She understand mother is elderly. Yesterday,
   situation was more critical but pt is much improved on exam today.
   -Attempt to extubate today or tomorrow
   -Will t/b with family re: goals of care and pt
s improvement
   -Will defer palliative care c/s at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-9-12**] 10:25 AM
   Multi Lumen - [**2138-9-12**] 09:39 PM
   Prophylaxis:
   DVT: pneumoboots for DVT ppx
   Stress ulcer:  on Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2138-09-16 10:15:00 Physician Attending Progress Note
Chief Complaint: pulm-renal syndrome, resp failure in setting of DAH
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo F w/ ARF/GN in setting of pulm-renal syndrome (p-anca +
   vasculitis) c/b acute hypoxemic resp failure [**2-17**] DAH.
   24 Hour Events:
   plasmaphoresis yesterday
   cytoxin dose increased
   HIT ab sent
   Frequent (stable) sx Q 2-4 hrs
rusty secretions), cough is poor
   History obtained from ho
   Allergies:
   Sulfonamides
   Rash;
   Macrodantin (Oral) (Nitrofurantoin Macrocrystal)
   Rash;
   Codeine
   Abdominal pain;
   Norvasc (Oral) (Amlodipine Besylate)
   edema;
   Hydralazine
   drug induced va
   Last dose of Antibiotics:
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-9-15**] 04:09 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-16**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 69 (58 - 85) bpm
   BP: 157/61(84) {122/38(62) - 180/61(87)} mmHg
   RR: 23 (19 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 92 kg
   Height: 60 Inch
             Total In:
                                                                    643 mL
                                                                    240 mL
   PO:
             TF:
                                                                    154 mL
   IVF:
                                                                    380 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                     31 mL
   Urine:
                                                                     90 mL
                                                                     31 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,157 mL
                                                                    209 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (311 - 349) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 76
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.50/44/118/34/10
   Ve: 7.6 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear with
   scattered rhonchi : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: verbal,
   Labs / Radiology
   8.8 g/dL
   111 K/uL
   141 mg/dL
   2.8 mg/dL
   34 mEq/L
   4.3 mEq/L
   44 mg/dL
   101 mEq/L
   144 mEq/L
   26.5 %
   14.3 K/uL
        [image002.jpg]
                             [**2138-9-14**]  10:48 AM
                             [**2138-9-14**]  07:40 PM
                             [**2138-9-15**]  04:01 AM
                             [**2138-9-15**]  05:28 AM
                             [**2138-9-15**]  12:22 PM
                             [**2138-9-15**]  03:29 PM
                             [**2138-9-15**]  04:04 PM
                             [**2138-9-15**]  10:05 PM
                             [**2138-9-16**]  04:26 AM
                             [**2138-9-16**]  08:01 AM
   WBC
   16.2
   16.0
   14.2
   14.3
   Hct
   26.7
   26.0
   27.1
   26.5
   Plt
   139
   126
   126
   111
   Cr
   3.9
   2.8
   TCO2
   29
   28
   34
   33
   36
   36
   Glucose
   145
   141
   Other labs: PT / PTT / INR:13.3/31.9/1.1, D-dimer:1608 ng/mL,
   Fibrinogen:264 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:247
   IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Imaging: cxr-overall improvement in b/l asd, c/t yesterday effusions
   layering with more blunitng of r base
   Microbiology: Sputum 1+ staph
   bl ngtd
   Assessment and Plan
   [**Age over 90 **] yo F w/ ARF/GN in setting of pulm-renal syndrome (p-anca +
   vasculitis) c/b acute hypoxemic resp failure [**2-17**] DAH.
    ISSUES INCLUDE:
          Respiratory failure, acute, hypoxemic
          Pulmonary renal syndrome (DAH, ARF, p-anca + GN felt [**2-17**]
   hydralazine-induced vasculitis)
          Leukocytosis
              Anemia
          Coagulopathy
          Thrombocytopenia
              HTN
   Acute resp failure [**2-17**] DAH in context of pulmonary-renal syndrome
   [p-anca + vasculitis (Wegener's granulomatosis vs. microscopic
   polyangiitis vs hydral-induced vasculitis).  Further confounded by
   uremic platelets and thrombocytopenia. Also with component of
   fluid/effusions in setting of renal failure. Infection appears less
   likely, though pna is difficult to assess in setting of diffuse b/l
   infiltrates and with ongoing intubation and immunsupression she is at
   high risk for developing a VAP.  She is s/p bronch with BAL to r/o
   initial infection and we continue to follow imaging and clinical status
   closely. Although yesterday we were hopeful that we were moving toward
   extubation, at present barriers to extubation include the need for
   increased FIO2 (large A-a gradient) and recurrent bleeding from ET sx.
   Agree with plan to continue PS ventilation, will reasses on 40% fio2
   and consider moving toward SBT.  Pt still with frequent sx needs which
   may be ongoing barrier to extubatiuon. We continue cytoxan, steroids
   and phoresis with rheum, renal, and transfusion service input
   appreciated.  Will continue PCP [**Name Initial (PRE) 3261**] (pentamidine).   She
   continues with HD for clearance and volume removal.  Plan for tunnel HD
   catherter paleemnt by IR.  Has rmetabolic alkalosis and appears
   comfortable on vent.  Likely [**2-17**] dialysate.  Will touch base with renal
   regarding changes to optimize Ph.
   She continues to have a leukocytosis (down slightly), in  the setting
   of steroids, with no obvious infectious etiology. We follow pending
   micro, and will initiate empiric broad antibx in setting of clinical
   decline as above or overt change in secretions or imaging.
   Pt with profound thrombocytopenia with > 50% decline during course, now
   improving.  We continue to hold all heparin products.
   HIT antibody resenr.
   H/o htn as baseline.  We are holding meds while sedated and undergoing
   HD.  Continue to assess for restarting with conservative BP
   parameters.
   Will continue to update family and address goals of care, working with
   renal/rheum services to provide information regarding prognosis.
   ICU Care
   Nutrition: TFs on hold for possible extubation later.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-12**] 10:25 AM
   Multi Lumen - [**2138-9-12**] 09:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-09-17 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - rheum recs: continue cytoxan 30mg IVx1, solumedrol at current dose.
   it may take days to see if cytoxan beneficial or not
   - renal recs: HD [**9-17**]
   - IR not able to put tunneled line for dialysis today, will do it on
   Wed after HD
   - 2 more cycles of pheresis: [**9-17**] (Wed) and [**9-19**] (Fri)
   - ABG after FiO2 decreased to 40%, 7.50/43/89/35
   - didn't try SBT today as continues to have lots of secretions
   - HIT antibody positive. allergies updated in OMR/POE. Despite
   increased risk of thrombosis in HIT, pt is not a candidate for
   argatroban [**2-17**] DAH. will monitor for signs of DVT/PE.
   - urine smelled, sent UA and urine culture
   - re-sent sputum culture given the one from [**9-12**] grew MSSA, no abx for
   now
   Allergies:
   Sulfonamides
   Rash;
   Macrodantin (Oral) (Nitrofurantoin Macrocrystal)
   Rash;
   Codeine
   Abdominal pain;
   Norvasc (Oral) (Amlodipine Besylate)
   edema;
   Hydralazine
   drug induced va
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-9-16**] 05:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-17**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 55 (54 - 79) bpm
   BP: 152/52(76) {133/44(68) - 183/65(95)} mmHg
   RR: 20 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 92 kg
   Height: 60 Inch
             Total In:
                                                                    771 mL
                                                                    149 mL
   PO:
             TF:
                                                                    171 mL
                                                                     56 mL
   IVF:
                                                                    390 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                    101 mL
                                                                     15 mL
   Urine:
                                                                     91 mL
                                                                     15 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    670 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 291 (291 - 329) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: 7.50/43/89.[**Numeric Identifier 433**]/30/8
   Ve: 7.2 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General:  comfortable on ventilator, follows simple commands, arousable
   to voice
   HEENT:  Sclera anicteric, no site of active bleeding
   Neck:  Supple
   Lungs:  Clear anteriorly; posterior not evaluated
   CV:  RRR, no m/r/g
   Abdomen:  s/nt/nd, +BS
   Ext:  Warm, well-perfused; 2+ radial and DP pulses; 1+ foot edema;
   pneumoboots in place
   Per NSG: old blood suctioned from ETT, no residual from OGT
   Labs / Radiology
   100 K/uL
   8.7 g/dL
   203 mg/dL
   4.0 mg/dL
   30 mEq/L
   4.6 mEq/L
   75 mg/dL
   97 mEq/L
   139 mEq/L
   25.8 %
   11.1 K/uL
        [image002.jpg]
                             [**2138-9-15**]  04:01 AM
                             [**2138-9-15**]  05:28 AM
                             [**2138-9-15**]  12:22 PM
                             [**2138-9-15**]  03:29 PM
                             [**2138-9-15**]  04:04 PM
                             [**2138-9-15**]  10:05 PM
                             [**2138-9-16**]  04:26 AM
                             [**2138-9-16**]  08:01 AM
                             [**2138-9-16**]  05:14 PM
                             [**2138-9-17**]  03:23 AM
   WBC
   16.0
   14.2
   14.3
   11.1
   Hct
   26.0
   27.1
   26.5
   25.8
   Plt
   126
   126
   111
   100
   Cr
   3.9
   2.8
   4.0
   TCO2
   28
   34
   33
   36
   36
   35
   Glucose
   145
   141
   203
   Other labs: Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:7.2 mg/dL
   [1][**2138-9-16**] 05:14PM
                                     ART
   89
                                     43
                                    7.50*
                                     35*
                                      8
   [2][**2138-9-16**] 08:01AM
                                     ART
   118*
                                     44
                                    7.50*
                                     36*
                                     10
   [**9-15**]: HEPARIN DEPENDENT ANTIBODIES     POSITIVE
MICRO: [**2138-9-12**] 12:22 pm SPUTUM      Source: Endotracheal.
                            **FINAL REPORT [**2138-9-15**]**
   GRAM STAIN (Final [**2138-9-12**]):
      <10 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Final [**2138-9-15**]):
      OROPHARYNGEAL FLORA ABSENT.
      STAPH AUREUS COAG +.    RARE GROWTH.
         Staphylococcus species may develop resistance during prolonged
         therapy with quinolones.   Therefore, isolates that are initially
         susceptible may become resistant within three to four days after
         initiation of therapy.  Testing of repeat isolates may be
         warranted.
      YEAST.    RARE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPH AUREUS COAG +
                             |
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------<=0.25 S
TRIMETHOPRIM/SULFA---- <=0.5 S
Blood culture from [**9-12**]: NGT
CXR ([**9-16**]): my read: less hazziness
   Assessment and Plan
   [**Age over 90 **] year-old female with hypertension, admitted with glomerulonephritis,
   now with acute hypoxic respiratory failure in context of diffuse
   alveolar hemorrhage, thought to be hydralazine p-ANCA induced
   vasculitis.
   #. Acute hypoxic respiratory failure: Most likely due to DAH secondary
   to hydralazine induced p anca vasculitis.  Differential includes
   Wegener's granulomatosis vs. microscopic polyangiitis given pANCA
   positivity. Pneumonia (including PCP) is possible given prolonged
   hospital course, immunosuppression with steroid therapy, and
   leukocytosis. Initially required urgent intubation on transfer
   secondary to fatigue and airway protection (given hemoptysis).  Pt
   changed to AC ARDS NET protocol due to b/l infiltrates on CXR and P/F
   ratio of 208. Pt on spectrum of [**Doctor Last Name 2**] to ARDS, much improved today.
   Patient currently on CPAP/PSV 8/5 doing well. No hemodynamic compromise
   to suggest pulmonary embolism, although patient has been bedbound for
   prolonged period.
   - wean FiO2 to 50%, check ABG.
   - if ABG ok, then will try SBT today. If not able to wean today, will
   attempt tomorrow pending her clinical status and oxygenation.
   - continue salumedrol 40mg IV Q8 hours and cytoxan per Rheum recs
   - Given high-dose steroids, PPI IV, PCP [**Name Initial (PRE) 3261**] (inhaled
   pentamidine given [**2138-9-6**]), close glucose monitoring
   - monitor hematocrit daily
   - F/U Rheumatology recs
   - F/U Renal recs
   .
   #. Hemoptysis:  likely due to DAH seen on bronchoscopy or dialyzing off
   clotting factors. Given history of gastritis, GI bleed also possible.
   Decreasing amounts of old blood and no new blood from ETT lavages. Hct
   stable.
   - check hematocrit [**Hospital1 **]
   - PPI IV given known gastritis, high-dose steroids
   - Goal hct>25 for concern for active bleeding
   - transfuse plasma
   .
   #. Glomerulonephritis:  Suspected hydralazine-induced pANCA vasculitis.
   Patient with renal biopsy on [**2138-9-1**] which showed 'marked chronic
   vascular disease' and suprisingly no evidence of vasculitis, although
   pANCA level markedly elevated. Dialysis today for fluid overload per
   Renal.
   - Steroid therapy and cytoxan, as above
   - continue plasmapheresis
 2 more sessions
   - continue dialysis
   - get tunneled line today by IR
   - f/u renal recs
   - Avoiding nephrotoxic agents
   .
   # Positive HIT antibody: Given positive HIT, pt has risk of thrombosis,
   especially given her systemic inflammation in the setting of
   vasculitis.
   -  consider argatroban
   .
   # Metabolic alkalosis: question if dialysate containes more bicarb than
   usual.
   - touch base with renal
   - continue to monitor acid-base status
   .
   #. Coagulopathy:  resolved. INR elevated on admission. Unlikely to be
   nutritional given albumin 4.1. Elevated PTT suspected secondary to
   sample being drawn from heparin-dependent pheresis line, although still
   elevated to >150 on peripheral stick. Of note, inhibitor screen
   positive [**2138-8-26**]; unclear which Factor is being inhibited by review of
   OMR. DIC labs nl. Heparin products stopped and platelets now rising,
   concerning for HITT.
   - Check coags daily, add on DIC labs only if abnormal
   - f/u HIT antibody
   -d/c antiplatelet antibody
   .
   #. Leukocytosis:  Expected leukocytosis given high-dose steroids,
   stable. No clear evidence of infection - without productive cough,
   abdominal pain, diarrhea, dysuria. Patient did present with
   uncomplicated UTI and was treated 3-day course of ciprofloxacin.
   - f/u Sputum, blood, and urine cultures
   - f/u BAL results
   - Hold off on antibiotics, low threshold to treat for VAP or HAP if she
   decompensates as ARDS may mask infiltrate on CXR
   .
   #. Lower GI bleed:  First and only episode of bleeding on [**2138-9-9**]. Most
   likely in the setting of swallowing coughed-up blood. Suspected to be
   diverticular vs. ischemic colitis given vasculitis.
   .
   #. Hypertension:  BP labile.  Intracranial bleed unlikely as pt is
   responsive and head CT deferred. Decrease of propofol resulted some
   improvement of heart rate with increase as pt was previously
   bradycardic.
   - wean propofol as tolerated
   -if BP elevated off propofol (SBP>160), will restart home labetalol
   .
   #. Anemia: Hct stable requiring no transfusions for the past few days.
   Several likely contributors, gastritis, DAH.  DIC labs unremarkable.
   - transfuse if hematocrit <25
   - daily CBC
   .
   # Goals for care
 Daughter would like mother to be healthy enough to
   be extubated and go home. She understand mother is elderly. Yesterday,
   situation was more critical but pt is much improved on exam today.
   -Attempt to extubate today or tomorrow
   -Will t/b with family re: goals of care and pt
s improvement
   -Will defer palliative care c/s at this time.
   ICU Care
   Nutrition:
   Glycemic Control:  5U glargine qhs, ISS
   Lines:
   Dialysis Catheter - [**2138-9-12**] 10:25 AM
   Multi Lumen - [**2138-9-12**] 09:39 PM
   Prophylaxis:
   DVT: pneumoboots for DVT ppx
   Stress ulcer:  on Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);

2138-09-17 12:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo F w/ ARF/GN in setting of pulm-renal syndrome (p-anca +
   vasculitis) c/b acute hypoxemic resp failure [**2-17**] DAH.
   24 Hour Events:
   HD this am
   Tunnel line deferred until today post HD
   FIO2 weaned to 40%
   continued to have freq sx needs with rus colored secretions
   HIT ab returned  +
   foley changed [**2-17**] yeast in u/a
   History obtained from ho
   Allergies:
   Sulfonamides
   Rash;
   Macrodantin (Oral) (Nitrofurantoin Macrocrystal)
   Rash;
   Codeine
   Abdominal pain;
   Norvasc (Oral) (Amlodipine Besylate)
   edema;
   Hydralazine
   drug induced va
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-9-16**] 05:04 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-17**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.8
C (96.4
   HR: 84 (54 - 88) bpm
   BP: 139/64(82) {125/44(68) - 179/75(95)} mmHg
   RR: 20 (17 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.3 kg (admission): 92 kg
   Height: 60 Inch
             Total In:
                                                                    771 mL
                                                                    281 mL
   PO:
             TF:
                                                                    171 mL
                                                                    119 mL
   IVF:
                                                                    390 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                    101 mL
                                                                  3,015 mL
   Urine:
                                                                     91 mL
                                                                     15 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    670 mL
                                                                 -2,734 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 311 (291 - 329) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.50/43/89.[**Numeric Identifier 433**]/30/8
   Ve: 8.4 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   100 K/uL
   203 mg/dL
   4.0 mg/dL
   30 mEq/L
   4.6 mEq/L
   75 mg/dL
   97 mEq/L
   139 mEq/L
   25.8 %
   11.1 K/uL
        [image002.jpg]
                             [**2138-9-15**]  04:01 AM
                             [**2138-9-15**]  05:28 AM
                             [**2138-9-15**]  12:22 PM
                             [**2138-9-15**]  03:29 PM
                             [**2138-9-15**]  04:04 PM
                             [**2138-9-15**]  10:05 PM
                             [**2138-9-16**]  04:26 AM
                             [**2138-9-16**]  08:01 AM
                             [**2138-9-16**]  05:14 PM
                             [**2138-9-17**]  03:23 AM
   WBC
   16.0
   14.2
   14.3
   11.1
   Hct
   26.0
   27.1
   26.5
   25.8
   Plt
   126
   126
   111
   100
   Cr
   3.9
   2.8
   4.0
   TCO2
   28
   34
   33
   36
   36
   35
   Glucose
   145
   141
   203
   Other labs: PT / PTT / INR:13.3/31.9/1.1, D-dimer:1608 ng/mL,
   Fibrinogen:264 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:247
   IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:7.2 mg/dL
   Fluid analysis / Other labs: HIT ab +
   Imaging: effusions b/l, some improved clearing
   Microbiology: repeat sputum pending
   bl ngtd
   Assessment and Plan
   [**Age over 90 **] yo F w/ ARF/GN in setting of pulm-renal syndrome (p-anca +
   vasculitis) c/b acute hypoxemic resp failure [**2-17**] DAH.
    ISSUES INCLUDE:
          Respiratory failure, acute, hypoxemic
          Pulmonary renal syndrome (DAH, ARF, p-anca + GN felt [**2-17**]
   hydralazine-induced vasculitis)
          Leukocytosis
              Anemia
         Thrombocytopenia
              HTN
   Acute resp failure [**2-17**] DAH in context of pulmonary-renal syndrome
   [p-anca + vasculitis (Wegener's granulomatosis vs. microscopic
   polyangiitis vs hydral-induced vasculitis).  Further confounded by
   uremic platelets and thrombocytopenia. Also with component of fluid
   o/l/effusions in setting of renal failure. She is doing well on little
   vent support,and we were able to wean FIo2 to 40%.  Her secretions are
   decreasing and A-a gradient is somewhat better.
   Agree with plan to continue PS ventilation. Will plan on SBT later this
   mornign after tunnel line palcement with hope for extubation.  We
   continue cytoxan, steroids and phoresis with rheum, renal, and
   transfusion service input appreciated.  Will continue PCP [**Name Initial (PRE) 3261**]
   (pentamidine).   She continues with HD for clearance and volume
   removal.  Tunnel HD catheter scheduled for IR placement today.  Has
   metabolic alkalosis and appears comfortable on vent.  Likely [**2-17**]
   dialysate with HD.  Will touch base with renal regarding changes to
   optimize Ph.
   She continues to have a leukocytosis though wbc is decreasing.  SUspect
   this is related to cytoxan.  Will continue to follow pending micro, and
   will initiate empiric broad antibx in setting of clinical decline as
   above or overt change in secretions or imaging.
   Her HIT ab returned pos.  Given DAH she is not a current candidate for
   argatroban.  Will monior closely for development of clot. We continue
   to hold all heparin products.
   H/o htn at baseline.  We are holding meds while sedated and undergoing
   HD.  Continue to assess for restarting with conservative BP
   parameters.
   Glargine added to SSI for hyperglycemia in setting of steroids.
   Will continue to update family and address goals of care, working with
   renal/rheum services to provide information regarding prognosis.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2138-9-17**] 10:00 AM 28 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-12**] 10:25 AM
   Multi Lumen - [**2138-9-12**] 09:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2138-09-18 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - had HD
   - had pheresis
   - temp HD pulled; got tunneled catheter, was a little hypertensive
   (170s), but then better (140s)
   - continued to have suctioning for thick rust colored sputums o/n
   - will SBT and extubate in AM cuase it got too late in the day today
   - held tube feeds o/n for extubation
   - renal recs: will decr HCO3 to 30 on HD today, epo 4000U with HD, AlOH
   TID x 2days bc of elev Ph
   - rheum recs: cytoxan usually takes 7-10 days before leukopenia is
   noted, continue cytoxan ans steroids for now
   - added 5U Lantus qhs, blood sugars in low 150-200
   - BPs have been in 135-155 range, so no home labetalol
   - started SBT at 4AM, with ABG of pH 7.5, 41, 71.  Appeared agitated,
   and was given propofol
   Allergies:
   Sulfonamides
   Rash;
   Macrodantin (Oral) (Nitrofurantoin Macrocrystal)
   Rash;
   Codeine
   Abdominal pain;
   Norvasc (Oral) (Amlodipine Besylate)
   edema;
   Hydralazine
   drug induced va
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-18**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 86 (63 - 88) bpm
   BP: 174/79(103) {125/38(63) - 174/81(105)} mmHg
   RR: 20 (18 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.3 kg (admission): 92 kg
   Height: 60 Inch
             Total In:
                                                                  1,086 mL
                                                                     72 mL
   PO:
             TF:
                                                                    338 mL
                                                                      7 mL
   IVF:
                                                                    749 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  3,062 mL
                                                                      0 mL
   Urine:
                                                                     62 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,976 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 191 (191 - 344) mL
   PS : 5 cmH2O
   RR (Set): 313
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.50/41/71/32/7
   Ve: 8.6 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General:  comfortable on ventilator, follows simple commands, arousable
   to voice
   HEENT:  Sclera anicteric, no site of active bleeding
   Neck:  Supple
   Lungs:  Clear anteriorly; posterior not evaluated
   CV:  RRR, no m/r/g
   Abdomen:  s/nt/nd, +BS
   Ext:  Warm, well-perfused; 2+ radial and DP pulses; no edema;
   pneumoboots in place
   Labs / Radiology
   82 K/uL
   8.3 g/dL
   128 mg/dL
   3.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   52 mg/dL
   100 mEq/L
   142 mEq/L
   25.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2138-9-15**]  03:29 PM
                             [**2138-9-15**]  04:04 PM
                             [**2138-9-15**]  10:05 PM
                             [**2138-9-16**]  04:26 AM
                             [**2138-9-16**]  08:01 AM
                             [**2138-9-16**]  05:14 PM
                             [**2138-9-17**]  03:23 AM
                             [**2138-9-17**]  08:07 PM
                             [**2138-9-18**]  03:31 AM
                             [**2138-9-18**]  06:06 AM
   WBC
   14.2
   14.3
   11.1
   9.3
   Hct
   27.1
   26.5
   25.8
   25.1
   Plt
   126
   111
   100
   82
   Cr
   2.8
   4.0
   3.1
   TCO2
   33
   36
   36
   35
   34
   33
   Glucose
   141
   203
   128
   Other labs: Lactic Acid:2.1 mmol/L, Albumin:3.2 g/dL, LDH:247 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Free Calcium 0.92
   Micro:
   [**9-17**]: u/a: negative nitrites, 48 RBCs, 31 WBCs, many bacteria, few
   yeast, 3 epi
   [**9-17**]: urine cx: pending
   - negative resp viral cx
   [**9-12**]: blood cx: pending
   [**9-17**]: sputum cx: pending, Gram stain: >25pmns, 4+ gram + cocci in pairs
   and clusters
   CXR: my read stable compared to yesterday
   Assessment and Plan
   [**Age over 90 **] year-old female with hypertension, admitted with glomerulonephritis,
   now with acute hypoxic respiratory failure in context of diffuse
   alveolar hemorrhage, thought to be secondary to hydralazine p-ANCA
   induced vasculitis.
   #. Acute respiratory failure: Most likely due to DAH secondary to
   pulmonary-renal syndrome (positive p anca, vasculitis) suspected to be
   hydralazine induced p anca vasculitis.  Differential also includes
   Wegener's granulomatosis vs. microscopic polyangiitis given pANCA
   positivity.  Pneumonia (including PCP) is possible given prolonged
   hospital course, immunosuppression with steroid therapy, and
   leukocytosis. Initially required urgent intubation on transfer
   secondary to fatigue and airway protection (given hemoptysis).  Pt
   changed to AC ARDS NET protocol due to b/l infiltrates on CXR and P/F
   ratio of 208. Pt on spectrum of [**Doctor Last Name 2**] to ARDS, much improved today.
   Patient currently on CPAP/PSV 5/5 FiO2 40% doing well. No hemodynamic
   compromise to suggest pulmonary embolism, although patient has been
   bedbound for prolonged period and is now at increased risk for
   thrombosis bc of HIT.
   - follow up ABG
   -secretions appear to be continuing
   - will try SBT today and possible extubation later today after
   procedure
   - continue salumedrol 40mg IV Q8 hours and cytoxan per Rheum recs
   - continue PPI IV, PCP [**Name Initial (PRE) 3261**] (pentamidine given [**2138-9-6**]), close
   glucose monitoring
   - monitor hematocrit daily
   - F/U Rheumatology recs
   - F/U Renal recs
   - PT, Speech and swallow ordered.
   .
   #. Hemoptysis:  likely due to DAH seen on bronchoscopy or dialyzing off
   clotting factors. Given history of gastritis, GI bleed also possible.
   Decreasing amounts of old blood and no new blood from ETT lavages. Hct
   stable.
   - check hematocrit [**Hospital1 **]
   - PPI IV given known gastritis, high-dose steroids
   - Goal hct>25 for concern for active bleeding
   - transfuse plasma
   .
   #. Glomerulonephritis:  Suspected hydralazine-induced pANCA vasculitis.
   Patient with renal biopsy on [**2138-9-1**] which showed 'marked chronic
   vascular disease' and suprisingly no evidence of vasculitis, although
   pANCA level markedly elevated. Dialysis today for fluid overload per
   Renal.
   - Steroid therapy and cytoxan, as above
   - continue plasmapheresis
 1 more session on Friday
   - continue HD
   - get tunneled line yesterday by IR
   - f/u renal recs
   - Avoiding nephrotoxic agents
   .
   # Possible UTI:  wbcs, bacteria, and few yeast seen on u/a.  Will await
   urine culture.  Consider starting diflucan for yeasts.
   # Positive HIT antibody: Given positive HIT, pt has risk of thrombosis,
   especially given her systemic inflammation in the setting of
   vasculitis.
   - although at inc risk for thrombosis, not a candidate for
   anti-coagulation given DAH
   - monitor closely for signs of DVT/PE
   .
   # Metabolic alkalosis: renal decreasing bicarb conc in diasylate
   - continue to monitor acid-base status
   .
   #. Coagulopathy:  resolved. INR elevated on admission. Unlikely to be
   nutritional given albumin 4.1. Elevated PTT suspected secondary to
   sample being drawn from heparin-dependent pheresis line, although still
   elevated to >150 on peripheral stick. Of note, inhibitor screen
   positive [**2138-8-26**]; unclear which Factor is being inhibited by review of
   OMR. DIC labs nl. HIT Ab positive.
   - Check coags daily, add on DIC labs only if abnormal
   - is positive for HIT antibody
   .
   #. Leukocytosis:  Resolved. Patient did present with uncomplicated UTI
   and was treated 3-day course of ciprofloxacin.
   - Hold off on antibiotics for now, low threshold to treat for VAP or
   HAP if she decompensates as ARDS may mask infiltrate on CXR
   - f/u sputum cx
   .
   #. Hypertension:  BP labile.  Intracranial bleed unlikely as pt is
   responsive and head CT deferred. Decrease of propofol resulted some
   improvement of heart rate with increase as pt was previously
   bradycardic.
   - wean propofol as tolerated
   -if BP elevated off propofol (SBP>160), will restart home labetalol
   .
   #. Anemia: Hct stable requiring no transfusions for the past few days.
   Several likely contributors, gastritis, DAH.  DIC labs unremarkable.
   - transfuse if hematocrit <25
   - daily CBC
   .
   # Goals for care
 Daughter would like mother to be healthy enough to
   be extubated and go home. She understand mother is elderly. Yesterday,
   situation was more critical but pt is much improved on exam today.
   -Attempt to extubate today or tomorrow
   -Will t/b with family re: goals of care and pt
s improvement
   -Will defer palliative care c/s at this time.
   ICU Care
   Nutrition:
   Glycemic Control:  5U glargine qhs, ISS
   Lines:
   Dialysis Catheter - [**2138-9-12**] 10:25 AM
   Multi Lumen - [**2138-9-12**] 09:39 PM
   Prophylaxis:
   DVT: pneumoboots for DVT ppx
   Stress ulcer:  on Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2138-09-18 12:25:00 Physician Attending Progress Note
Chief Complaint:  pulm-renal syndrome, resp failure in setting of DAH
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   HD and palsmaphoresis
   tunnel HD line palced
   extubated this am
   History obtained from ho
   Allergies:
   Sulfonamides
   Rash;
   Macrodantin (Oral) (Nitrofurantoin Macrocrystal)
   Rash;
   Codeine
   Abdominal pain;
   Norvasc (Oral) (Amlodipine Besylate)
   edema;
   Hydralazine
   drug induced va
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-18**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 81 (66 - 87) bpm
   BP: 185/76(106) {127/38(63) - 185/81(106)} mmHg
   RR: 20 (20 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.3 kg (admission): 92 kg
   Height: 60 Inch
             Total In:
                                                                  1,086 mL
                                                                    159 mL
   PO:
             TF:
                                                                    338 mL
                                                                      7 mL
   IVF:
                                                                    749 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  3,062 mL
                                                                     22 mL
   Urine:
                                                                     62 mL
                                                                     22 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,976 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 287 (191 - 344) mL
   PS : 5 cmH2O
   RR (Set): 313
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: 7.50/41/71/32/7
   Ve: 6.4 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   82 K/uL
   128 mg/dL
   3.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   52 mg/dL
   100 mEq/L
   142 mEq/L
   25.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2138-9-15**]  03:29 PM
                             [**2138-9-15**]  04:04 PM
                             [**2138-9-15**]  10:05 PM
                             [**2138-9-16**]  04:26 AM
                             [**2138-9-16**]  08:01 AM
                             [**2138-9-16**]  05:14 PM
                             [**2138-9-17**]  03:23 AM
                             [**2138-9-17**]  08:07 PM
                             [**2138-9-18**]  03:31 AM
                             [**2138-9-18**]  06:06 AM
   WBC
   14.2
   14.3
   11.1
   9.3
   Hct
   27.1
   26.5
   25.8
   25.1
   Plt
   126
   111
   100
   82
   Cr
   2.8
   4.0
   3.1
   TCO2
   33
   36
   36
   35
   34
   33
   Glucose
   141
   203
   128
   Other labs: PT / PTT / INR:13.3/31.9/1.1, D-dimer:1608 ng/mL,
   Fibrinogen:264 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.2 g/dL, LDH:247
   IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Imaging: cxr--no new focal changes
   Microbiology: u cx pending
   bl pending, ngtd
   sputum pending, pmns 4+ gpc pos gs
   Assessment and Plan
   [**Age over 90 **] yo F w/ ARF/GN in setting of pulm-renal syndrome (p-anca +
   vasculitis) c/b acute hypoxemic resp failure [**2-17**] DAH.
    ISSUES INCLUDE:
          Respiratory failure, acute, hypoxemic (now extubated)
          Pulmonary renal syndrome (DAH, ARF, p-anca + GN felt [**2-17**]
   hydralazine-induced vasculitis)
          Leukocytosis
              Anemia
          Thrombocytopenia , Hit +
              Met alkalosis
              HTN
   Acute resp failure [**2-17**] DAH in context of pulmonary-renal syndrome
   [p-anca + vasculitis (Wegener's granulomatosis vs. microscopic
   polyangiitis vs hydral-induced vasculitis). Successfully extubated this
   am pre-rounds.  Monitor closely, f/u abg. Continue nebs.
   We continue cytoxan, steroids and phoresis with rheum, renal, and
   transfusion service input appreciated.  Will continue PCP [**Name Initial (PRE) 3261**]
   (pentamidine).   She continues with HD for clearance and volume
   removal. Has metabolic alkalosis [**2-17**] HD, renal adjusting dialysate to
   optimize Ph.
   Her wbc is decreasing.  ? related to cytoxan though typically do not
   see leukopenic effects for 7-10 days.  Will continue to follow pending
   micro, and initiate empiric broad antibx in setting of clinical decline
   or overt change in secretions or imaging given immunosupression.
   Her HIT ab returned pos.  Given DAH she is not a candidate for
   argatroban.  Will monitor closely for development of thrombosis. We
   continue to hold all heparin products.
   H/o htn at baseline. Continue to assess for restarting with
   conservative BP parameters.
   Glargine and [**First Name9 (NamePattern2) **] [**Last Name (un) 8026**] control in setting of steroids.
   Follow urine cx and consider repeat change of foley or difulcan if
   yeast persists.
   Will continue to update family and address goals of care, working with
   renal/rheum services to provide information regarding prognosis.
   PT c/s.
   Picc consult and then d/c CVL.
   Remainder as per Housestaff.
   ICU Care
   Nutrition: speech and swallow consult
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-9-12**] 10:25 AM
   Multi Lumen - [**2138-9-12**] 09:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2138-09-19 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-9-18**] 09:40 AM
   - successfully extubated yesterda
   -post extubation ABG checked at 5PM, 7.50, 40, 83.
   -speech and swallow see on Friday
   -added labetolol 10 IV q6h PRN SBP >160
   -agitation at night, received 0.5mg IV haldol
   -renal recs: if bicarb continues to be high, will use lower diasylate
   -pending culture for possible UTI treatment
   Allergies:
   Sulfonamides
   Rash;
   Macrodantin (Oral) (Nitrofurantoin Macrocrystal)
   Rash;
   Codeine
   Abdominal pain;
   Norvasc (Oral) (Amlodipine Besylate)
   edema;
   Hydralazine
   drug induced va
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2138-9-19**] 12:00 AM
   Labetalol - [**2138-9-19**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-19**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.5
C (97.7
   HR: 69 (65 - 97) bpm
   BP: 137/52(98) {137/43(74) - 201/89(115)} mmHg
   RR: 21 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.3 kg (admission): 92 kg
   Height: 60 Inch
             Total In:
                                                                    218 mL
                                                                     37 mL
   PO:
             TF:
                                                                      7 mL
   IVF:
                                                                    161 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                     94 mL
                                                                     80 mL
   Urine:
                                                                     94 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    124 mL
                                                                    -43 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.50/40/82.[**Numeric Identifier **]/27/6
   PaO2 / FiO2: 207
   Physical Examination
   General:  comfortable on ventilator, follows simple commands, arousable
   to voice
   HEENT:  Sclera anicteric, no site of active bleeding
   Neck:  Supple
   Lungs:  Clear anteriorly; posterior not evaluated
   CV:  RRR, no m/r/g
   Abdomen:  s/nt/nd, +BS
   Ext:  Warm, well-perfused; 2+ radial and DP pulses; no edema;
   pneumoboots in place
   Labs / Radiology
   90 K/uL
   8.1 g/dL
   124 mg/dL
   4.4 mg/dL
   27 mEq/L
   4.4 mEq/L
   90 mg/dL
   101 mEq/L
   143 mEq/L
   24.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2138-9-15**]  10:05 PM
                             [**2138-9-16**]  04:26 AM
                             [**2138-9-16**]  08:01 AM
                             [**2138-9-16**]  05:14 PM
                             [**2138-9-17**]  03:23 AM
                             [**2138-9-17**]  08:07 PM
                             [**2138-9-18**]  03:31 AM
                             [**2138-9-18**]  06:06 AM
                             [**2138-9-18**]  04:38 PM
                             [**2138-9-19**]  04:26 AM
   WBC
   14.3
   11.1
   9.3
   7.0
   Hct
   26.5
   25.8
   25.1
   24.8
   Plt
   111
   100
   82
   90
   Cr
   2.8
   4.0
   3.1
   4.4
   TCO2
   36
   36
   35
   34
   33
   32
   Glucose
   141
   203
   128
   124
   Other labs: PT / PTT / INR:12.5/31.5/1.1,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:6.9 mg/dL
   CXR Today: my read: no significant change compared to yesterday
   Assessment and Plan
   [**Age over 90 **] year-old female with hypertension, admitted with glomerulonephritis,
   now with acute hypoxic respiratory failure in context of diffuse
   alveolar hemorrhage, thought to be secondary to hydralazine p-ANCA
   induced vasculitis.
   #. Acute respiratory failure: Successfully extubated. The respiratory
   failure most likely due to DAH secondary to pulmonary-renal syndrome
   (positive p anca, vasculitis) suspected to be hydralazine induced p
   anca vasculitis.  Differential also includes Wegener's granulomatosis
   vs. microscopic polyangiitis given pANCA positivity.  Pneumonia
   (including PCP) is possible given prolonged hospital course,
   immunosuppression with steroid therapy, and leukocytosis.  Patient
   successfully extubated this AM.
   - daily ABG
   - continue nebs
   - continue salumedrol 40mg IV Q8 hours and cytoxan per Rheum recs,
   consider switching to prednisone and PO cytoxan pending swallow study
   - last session plasmapharesis today
   - HD for volume removal
 goal 4 liter negative today
   - while on steroids, continue PPI IV, PCP [**Name Initial (PRE) 3261**] (pentamidine
   given [**2138-9-6**]), close glucose monitoring
   - monitor hematocrit daily for DAH
   - F/U Rheumatology recs
   - F/U Renal recs
   .
   #. Hemoptysis:  likely due to DAH seen on bronchoscopy or dialyzing off
   clotting factors. Given history of gastritis, GI bleed also possible.
   Decreasing amounts of old blood and no new blood from ETT lavages. Hct
   stable.
   - hematocrit stable
   - PPI IV given known gastritis
   - treat DAH as above
   - Goal hct>25
   .
   #. Glomerulonephritis:   tunneled line in place. Etiology:
   hydralazine-induced pANCA vasculitis. Patient with renal biopsy on
   [**2138-9-1**] which showed 'marked chronic vascular disease' and suprisingly
   no evidence of vasculitis, although pANCA level markedly elevated.
   Dialysis for fluid overload per Renal.
   - Steroid therapy and cytoxan, as above
   - continue plasmapheresis
 1 more session today
   - continue HD with tunneled line
   - f/u renal recs
   .
   # Delirium: most likely sundowning. It is unlikely she has delirium
   from any secondary causes or dementia.
   - haldol PRN
   .
   # Possible UTI:  wbcs, bacteria, and few yeast seen on u/a.
   - f/u urine culture.
   - Consider starting diflucan for yeasts.
   .
   # Metabolic alkalosis:
   - renal decreasing bicarb conc in diasylate
   - continue to monitor acid-base status
   .
   #. Hypertension:  BP labile.
   - BP elevated (SBP>180), labetolol restarted PRN > 160.
   .
   #. Anemia: Hct stable requiring no transfusions for the past few days.
   Several likely contributors, gastritis, DAH.  DIC labs unremarkable. Fe
   studies consistent with anemia of inflammation, not surprising given
   her inflammatory status.
   - transfuse if hematocrit <21 or change in hemodynamics
   - f/u with anemia studies: Fe panel, B12, Folate
   - daily CBC
   .
   # HIT positivity: Given positive HIT, pt has risk of thrombosis,
   especially given her systemic inflammation in the setting of
   vasculitis.
   - although at inc risk for thrombosis, not a candidate for
   anti-coagulation given DAH
   - monitor closely for signs of DVT/PE
   .
   #. Leukocytosis:  Resolved. Patient did present with uncomplicated UTI
   and was treated 3-day course of ciprofloxacin.
   - Hold off on antibiotics for now, low threshold to treat for VAP or
   HAP if she decompensates as ARDS may mask infiltrate on CXR
   ICU Care
   Nutrition: f/u speech / swallow recs today.
   Glycemic Control:  5U glargine qhs, ISS
   Lines:
   Dialysis Catheter - [**2138-9-12**] 10:25 AM
   Multi Lumen - [**2138-9-12**] 09:39 PM
   PICC consult and then d/c CVL
   Prophylaxis:
   DVT: pneumoboots for DVT ppx
   Stress ulcer:  on Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Hemodynamically stable ; transfer to floor later today if
   continues to be stable this pm.

2138-09-19 14:07:00 Physician Attending Progress Note
Chief Complaint: resp failure in setting of DAH, pulm renal syndrome
   (note had to be regenerated as note during rounds did not save)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo F w/ ARF/GN in setting of pulm-renal syndrome (p-anca +
   vasculitis) c/b acute hypoxemic resp failure [**2-17**] DAH.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-9-18**] 09:40 AM
   doing well post extubation on NC O2
   delirius and agitated overnight-->given haldol X 1
   HD tunnel placed by IR
   Sppecha nd swallow plan for today
   Labetolol started for htn
   Allergies:
   Sulfonamides
   Rash;
   Macrodantin (Oral) (Nitrofurantoin Macrocrystal)
   Rash;
   Codeine
   Abdominal pain;
   Norvasc (Oral) (Amlodipine Besylate)
   edema;
   Hydralazine
   drug induced va
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2138-9-19**] 12:00 AM
   Labetalol - [**2138-9-19**] 12:04 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-19**] 02:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.3
   HR: 63 (63 - 97) bpm
   BP: 124/55(72) {105/43(60) - 201/89(115)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.3 kg (admission): 92 kg
   Height: 60 Inch
             Total In:
                                                                    218 mL
                                                                     70 mL
   PO:
             TF:
                                                                      7 mL
   IVF:
                                                                    161 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                     94 mL
                                                                    135 mL
   Urine:
                                                                     94 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    124 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.47/32/90.[**Numeric Identifier 433**]/27/0
   Physical Examination
   Awake and alert, appropriate, follows commands
   Cta with scant bb rales
   RR
   Benign abd + BS, soft
   No edema
   No rash
   Labs / Radiology
   8.1 g/dL
   90 K/uL
   124 mg/dL
   4.4 mg/dL
   27 mEq/L
   4.4 mEq/L
   90 mg/dL
   101 mEq/L
   143 mEq/L
   24.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2138-9-16**]  04:26 AM
                             [**2138-9-16**]  08:01 AM
                             [**2138-9-16**]  05:14 PM
                             [**2138-9-17**]  03:23 AM
                             [**2138-9-17**]  08:07 PM
                             [**2138-9-18**]  03:31 AM
                             [**2138-9-18**]  06:06 AM
                             [**2138-9-18**]  04:38 PM
                             [**2138-9-19**]  04:26 AM
                             [**2138-9-19**]  01:37 PM
   WBC
   14.3
   11.1
   9.3
   7.0
   Hct
   26.5
   25.8
   25.1
   24.8
   Plt
   111
   100
   82
   90
   Cr
   2.8
   4.0
   3.1
   4.4
   TCO2
   36
   35
   34
   33
   32
   24
   Glucose
   141
   203
   128
   124
   Other labs: PT / PTT / INR:12.5/31.5/1.1, D-dimer:1608 ng/mL,
   Fibrinogen:264 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.2 g/dL, LDH:247
   IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:6.9 mg/dL
   Cxr appears more wet with full hilar vessels, no obvious new focal inf
   Assessment and Plan
   [**Age over 90 **] yo F w/ ARF/GN in setting of pulm-renal syndrome (p-anca +
   vasculitis) c/b acute hypoxemic resp failure [**2-17**] DAH.
    ISSUES INCLUDE:
          Pulmonary renal syndrome (DAH, ARF, p-anca + GN felt [**2-17**]
   hydralazine-induced vasculitis)
          Leukocytosis
              Anemia
         Thrombocytopenia , Hit +
              Met alkalosis
              HTN
              agitation/delirium at night -->resolved now
   Doing well post extubation with minimal O2 requriements.  Continue
   nebs.
   We continue cytoxan, steroids (change to PO pending swallow eval) and
   phoresis (last run) with rheum, renal, and transfusion service input
   appreciated.  Will continue PCP [**Name Initial (PRE) 3261**] (pentamidine).   She
   continues with HD for clearance and volume removal. Will follow abg for
   pH fiven metabolic alkalosis [**2-17**] HD, renal adjusting dialysate to
   optimize.
   Her wbc continues to decrease. ? related to cytoxan though typically do
   not see leukopenic effects for 7-10 days.  WLow threshold for empiric
   broad antibx in setting of clinical decline or overt change in
   secretions or imaging given immunosupression.
   Her HIT ab returned pos.  Given DAH she is not a candidate for
   argatroban.  Will monitor closely for development of thrombosis. We
   continue to hold all heparin products.  Her recurrent more mild
   thrmobocytopenia is liekly [**2-17**] to cytoxan effects--trend.
   Anemia in setting of pulm renal syndrome.  Slowly down.  HD stable.
   Getting epo with HD.  Transfusion for hct < 21 or if evidence of
   bleeding.
   H/o htn at baseline. Tolerating labetolol.  Volume removal with HD will
   also help.
   Glargine and [**First Name9 (NamePattern2) **] [**Last Name (un) 8026**] control in setting of steroids.
   Follow urine cx and consider repeat change of foley or difulcan if
   yeast persists.
   Many reasons for delirium/agitation including ICU, altered sleep wake,
   steroids.  MS now appropriate.  Use haldol or zyprexa sparing as
   needed.  Optimize sleep wake.
   Will continue to update family and address goals of care, working with
   renal/rheum services to provide information regarding prognosis.
   PT c/s.
   Attempt for PIVs then D/c CVL.  No clear need for picc.
   Remainder as per Housestaff.
   ICU Care
   Nutrition:
   Comments: pending speech and swallow eval, if aspirated would resume
   TFs and reasses
   Glycemic Control:  Regular insulin sliding scale, Comments: glargine
   Lines:
   Dialysis Catheter - [**2138-9-12**] 10:25 AM
   Multi Lumen - [**2138-9-12**] 09:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for floor transfer
   Total time spent: 40 minutes

2138-09-20 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - renal planned to remove 4L fluid today during HD, but in the middle
   of HD, blood pressure dipped down to 80s, pt was bradycardic, so was
   given IVF, and was ultimately -2.5L
   - Rheum recs: continue steroids and cytoxan 30mg daily. once able to
   take PO can transition to PO cytoxan. would add mesna as well once can
   take PO.
   - Renal recs: change cytoxan to PO when tolerating PO
   - S&S recs: nectar thick liquids and pureed solids with the following
   precautions with strict 1:1 supervision
   - PT recs: to rehab
   - pt seemed to be more somnolent today, ABG was ok
   - last pheresis today
   - was going to be called out to the floor but given the incidence
   during HD session, kept her here for now
   - Pt was very agitated overnight and had bad delirium, got 2 doses of
   0.5mg haldol
   Allergies:
   Sulfonamides
   Rash;
   Macrodantin (Oral) (Nitrofurantoin Macrocrystal)
   Rash;
   Codeine
   Abdominal pain;
   Norvasc (Oral) (Amlodipine Besylate)
   edema;
   Hydralazine
   drug induced va
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Labetalol - [**2138-9-20**] 03:15 AM
   Haloperidol (Haldol) - [**2138-9-20**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-20**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 104 (63 - 104) bpm
   BP: 200/98(124) {105/38(59) - 200/98(124)} mmHg
   RR: 26 (18 - 27) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.8 kg (admission): 92 kg
   Height: 60 Inch
             Total In:
                                                                    120 mL
                                                                     30 mL
   PO:
             TF:
   IVF:
                                                                    120 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  2,635 mL
                                                                     40 mL
   Urine:
                                                                    135 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,515 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.47/32/90.[**Numeric Identifier 433**]//0
   Physical Examination
   General:  agitated, wants to go home
   HEENT:  Sclera anicteric, no site of active bleeding
   Neck:  Supple
   Lungs:  occasional crackles at bases bilaterally
   CV:  RRR, no m/r/g
   Abdomen:  s/nt/nd, +BS
   Ext:  Warm, well-perfused; 2+ radial and DP pulses; no edema;
   pneumoboots in place
   Labs / Radiology
   90 K/uL
   8.1 g/dL
   124 mg/dL
   4.4 mg/dL
   27 mEq/L
   4.4 mEq/L
   90 mg/dL
   101 mEq/L
   143 mEq/L
   24.8 %
   7.0 K/uL
        [image002.jpg]
                                     142
                               [image004.gif]
                                     105
                               [image004.gif]
                                     46
   [image006.gif]
   156
                                                                   AGap=17
   [image007.gif]
   4.2
                               [image004.gif]
                                     24
                               [image004.gif]
                                   2.8
   [image009.gif]
   85
                                                                       8.5
                                                            [image009.gif]
                                     8.2
   [image006.gif]
   72
                 [image010.gif]
   [image006.gif]
                                    23.7
   [image009.gif]
   PT: 13.3
   PTT: 30.1
   INR: 1.1
   Ca: 8.9 Mg: 1.9 P: 4.1
                             [**2138-9-16**]  04:26 AM
                             [**2138-9-16**]  08:01 AM
                             [**2138-9-16**]  05:14 PM
                             [**2138-9-17**]  03:23 AM
                             [**2138-9-17**]  08:07 PM
                             [**2138-9-18**]  03:31 AM
                             [**2138-9-18**]  06:06 AM
                             [**2138-9-18**]  04:38 PM
                             [**2138-9-19**]  04:26 AM
                             [**2138-9-19**]  01:37 PM
   WBC
   14.3
   11.1
   9.3
   7.0
   Hct
   26.5
   25.8
   25.1
   24.8
   Plt
   111
   100
   82
   90
   Cr
   2.8
   4.0
   3.1
   4.4
   TCO2
   36
   35
   34
   33
   32
   24
   Glucose
   141
   203
   128
   124
   Other labs:
   .
   MICRO: none
   .
   IMAGING:
   CXR from today:
   Assessment and Plan
   [**Age over 90 **] year-old female with hypertension, admitted with glomerulonephritis,
   now with acute hypoxic respiratory failure in context of diffuse
   alveolar hemorrhage, thought to be secondary to hydralazine p-ANCA
   induced vasculitis.
   #. Acute respiratory failure: Successfully extubated. The respiratory
   failure most likely due to DAH secondary to pulmonary-renal syndrome
   (positive p anca, vasculitis) suspected to be hydralazine induced p
   anca vasculitis.  Differential also includes Wegener's granulomatosis
   vs. microscopic polyangiitis given pANCA positivity.  Pneumonia
   (including PCP) is possible given prolonged hospital course,
   immunosuppression with steroid therapy, and leukocytosis.  Patient
   successfully extubated this AM.
   - daily ABG
   - continue nebs
   - continue salumedrol 40mg IV Q8 hours and cytoxan per Rheum recs,
   consider switching to prednisone and PO cytoxan once taking PO
   - continue HD to remove extra fluid
   - while on steroids, continue PPI IV, PCP [**Name Initial (PRE) 3261**] (pentamidine
   given [**2138-9-6**]), close glucose monitoring
   - monitor hematocrit daily for DAH
   - F/U Rheumatology recs
   - F/U Renal recs
   .
   #. Hemoptysis:  likely due to DAH seen on bronchoscopy or dialyzing off
   clotting factors. Given history of gastritis, GI bleed also possible.
   Decreasing amounts of old blood and no new blood from ETT lavages. Hct
   stable.
   - hematocrit stable
   - treat DAH as above
   - Goal hct>21
   .
   #. Glomerulonephritis:   tunneled line in place. Etiology:
   hydralazine-induced pANCA vasculitis. Patient with renal biopsy on
   [**2138-9-1**] which showed 'marked chronic vascular disease' and suprisingly
   no evidence of vasculitis, although pANCA level markedly elevated.
   Dialysis for fluid overload per Renal.
   - Steroid therapy and cytoxan, as above
   - continue HD via tunneled line
   - f/u renal recs
   .
   # Delirium: most likely sundowning. It is unlikely she has delirium
   from any secondary causes or dementia.
   - haldol PRN
   .
   #. Hypertension:  BP labile.
   - BP elevated (SBP>180), labetolol restarted PRN > 160.
   - will add metoprolol to her regimen when pt  takes PO
   - HD to remove extra fluid
   .
   # Metabolic alkalosis:
   - renal decreasing bicarb conc in diasylate
   - repeat ABG today
   - continue to monitor acid-base status
   .
   #. Anemia: Hct stable requiring no transfusions for the past few days.
   DAH plays a role.  DIC labs unremarkable. Fe studies consistent with
   anemia of inflammation, not surprising given her inflammatory status.
   - transfuse if hematocrit <21 or change in hemodynamics
   - daily CBC
   .
   # HIT positivity: Given positive HIT, pt has risk of thrombosis,
   especially given her systemic inflammation in the setting of
   vasculitis.
   - although at inc risk for thrombosis, not a candidate for
   anti-coagulation given DAH
   - monitor closely for signs of DVT/PE
   .
   #. Leukocytosis:  Resolved. Patient did present with uncomplicated UTI
   and was treated 3-day course of ciprofloxacin.
   - Hold off on antibiotics for now, low threshold to treat for VAP or
   HAP if she decompensates as ARDS may mask infiltrate on CXR
   ICU Care
   Nutrition:  NGT today.
   Glycemic Control:  5U glargine qhs, ISS
   Lines:
   Dialysis Catheter - [**2138-9-12**] 10:25 AM
   Multi Lumen - [**2138-9-12**] 09:39 PM
   PICC consult and then d/c CVL
   Prophylaxis:
   DVT: pneumoboots for DVT ppx
   Stress ulcer:  on Pantoprazole 40 mg IV Q24H
   VAP:  none
   Comments:
   Communication:  daughter
   [**Name (NI) 129**] status: Full code
   Disposition: Hemodynamically stable ; transfer to floor later today if
   continues to be stable this pm. PT recommended rehab on discharge